Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.87988772992
[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2][C:3]([H:4])([C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[O:13][H:14],-0.504212491492
[H:1][C:2][C:3]1=[C:4]([O:5][H:6])[C:7]([H:8])=[C:9]1[H:10]>>[H:1][C:2]/[C:3](=[C:4](\[O:5][H:6])[C:7]#[C:9][H:10])[H:8],0.0142378978499
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.43979508227
[C:9]([H:10])([H:11])=[C:12][H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8]>>[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][H:13],2.8500958184400003
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][H:12],-0.8464255103499999
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:5],3.02602976886
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.628269689740001
[C:1]/[C:2]([O:3][H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2](\[O:3][H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],5.06743154035
[C:1]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[C:2]#[C:3]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-8.37742979662
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7][H:8])[C:13]([H:14])([H:15])[H:16],4.55465854324
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1][C:2][O:3].[C:4][C:5]([H:6])([H:7])[O:8][H:9],1.3996841801
[C:1]#[C:2].[O:3][C:4](=[O:5])[H:6]>>[C:1]#[C:2][O:3][C:4](=[O:5])[H:6],-4.7616272447900005
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:8][H:9].[H:7],4.853883097230001
[C:1][C@:2]1([H:3])[O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],0.44324665547
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.49199011136
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],4.9053647948800005
[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:11]([H:12])[H:13].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10],0.51081267735
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]#[C:7][H:8]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.60317444501
[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],1.1526065695299998
[H:3].[O:1]=[C:2]>>[O:1]=[C:2][H:3],-1.0906089837
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.60297481715
[H:6].[O:1]=[C:2]([O:3][H:4])[C:5][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-4.91899194062
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18],4.44270499555
[C:3]([H:4])([H:5])=[C:10]=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][C:7]([H:6])([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-2.11085485373
[C:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:1]#[C:2][H:5].[C:3](#[C:4])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],5.018544750019999
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2],6.23446653751
[H:10].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([C:7]([H:8])[H:9])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.51772441809
